Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Red swollon leg 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a ___ year old male with medical history of diabetes, 
COPD on ___ NC, CHF who had an injury to his left shin which 
then became red and swollen. About a week and a half ago he was 
walking up some stairs and stuck his left shin againt the stair. 
He initially washed it with soap and water. Over the last few 
days it has become increasingly red and swollen. Patient was 
going to come in to the clinic to be seen but then couldn't get 
his left shoe on so came to the ED. He also reports that he is 
slightly more short oof breath ovre the past few days and has a 
cough that is productive of occasional white sputum.  
.  
In the ED, VS: T:98.1, HR:94, O2:96% on 3L  
.  
ROS: He reports chronic congestion which is unchaged. He also 
reports daily abdominal pain when he is making dinner which goes 
away when he eats. Denies fever, chills, night sweats, headache, 
vision changes, rhinorrhea, sore throat, chest pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  

 
Past Medical History:
1. COPD- on home O2 (3L), FEV1 22% predicted, FEV1/FVC  
ratio 43% predicted, last intubated ___ years ago. followed by 
Pulm  
2. Tobacco Abuse  
3. DM II  
4. Diverticulosis  
5. h/o SBO  
6. C6-C7 HERNITATION  
7. B12 Deficiency- on monthly injections  
8. Obesity  

 
Social History:
___
Family History:
Mother and Father died of lung cancer in their ___, sister just 
recently died at age ___ from lung CA, daughter with cystic 
fibrosis
 
Physical Exam:
Vitals - afebrile, BP: 156/83, HR:98, RR: 20, 02 sat: 94% on 2L  

GENERAL: NAD  
HEENT: MMM, Oropharynx without exudate or erythema. No LAD.  
CARDIAC: S1+, S2+, RRR, No M/R/G  
LUNG: +Rhonchi diffusly, decreased breath sounds diffusly. No 
wheezes.  
ABDOMEN: Obese, soft, NT/ND, +BS  
EXT: Psoriatic lesions on elbows b/l, left buttox and feet b/l. 
Area of left ___ erythema and edema.  
NEURO: A&Ox3. Appropriate. CN ___ grossly intact. Preserved 
sensation throughout. ___ strength throughout.  

 
Pertinent Results:
CBC: 
___ 12:30PM BLOOD WBC-8.1 RBC-3.99* Hgb-11.9* Hct-35.6* 
MCV-89 MCH-29.8 MCHC-33.3 RDW-14.0 Plt ___
___ 06:05AM BLOOD WBC-8.7 RBC-3.41* Hgb-10.4* Hct-30.8* 
MCV-90 MCH-30.5 MCHC-33.8 RDW-14.3 Plt ___

Chemistry:
___ 12:30PM BLOOD Glucose-72 UreaN-32* Creat-0.9 Na-143 
K-5.1 Cl-101 HCO3-35* AnGap-12
___ 06:00AM BLOOD Glucose-153* UreaN-35* Creat-1.0 Na-141 
K-5.1 Cl-102 HCO3-31 AnGap-13

Fe studdies: 
___ 06:00AM BLOOD calTIBC-247* Ferritn-64 TRF-190*

CXR: IMPRESSION: Bilateral pulmonary hyperinflation consistent 
with known chronic obstructive airways disease. No radiographic 
evidence of pneumonia. 

IMPRESSION: No evidence for deep venous thrombosis of the left 
lower 
extremity. 

LEFT TIBIA AND FIBULA, THREE VIEWS TOTAL: Diffuse soft tissue 
swelling is 
seen about the left leg, but no subcutaneous gas or radiopaque 
foreign bodies are present. There is no osseous destruction 
present to suggest 
osteomyelitis. Visualized aspect of the knee and ankle appear 
unremarkable.  No focal lytic or sclerotic osseous abnormalities 
are present.   
IMPRESSION: No evidence of soft tissue gas or radiopaque foreign 
body. 

 
Brief Hospital Course:
This is a ___ yo M with Hx of COPD on ___ home O2, DM, B-12 def 
anemia, HTN and psoriasis who comes in with LLE cellulitis.  
.  
# Cellulitis: Patient with left lower extremity erythema, 
tenderness to palpation and edema consistent with cellulitis. A 
DVT was not seen on a ___.  He was started on IV vancomycin and 
oral ciprofloxacin.  He remained on the IV vancomycin for two 
days and clinically improved.  He was discharged on oral bacrtim 
and cipro.  No culture data was posative.  
.  
# COPD: On home O2 of ___ L. Patient taking prednisone 10mg 
every other day. Although he is reporting some mild increase in 
his SOB and has a cough with occasional production of white 
sputum, he is clinically not wheezing and at his baseline O2. 
Will opt not to treat for a COPD exacerbation at this time. No 
evidence of PNA. His oxygen was titrated to a goal sat of 
92-94%.  He was usually able to achive this on 2L NC.  
.  
# DM: His finger sticks were elevated as an inpatient. Patient 
on oral hypoglycemics of glyburide and metformin. Does take 
prednisone. HbA1c in ___ was 7.4. ___ need to be started 
on insulin as an outpatient.  
.  
# B-12 Anemia: Patient takes B-12 shots, missed his last one.  
He recieved one B-12 shot whili in house.  
.  
# Psoriasis: Patient with psoriatic lesions as in PE. Will 
continue creams for lesions that patient was taking as an 
outpatient.  
.  
# PPX: heparin SQ, bowel regimen  
.  
# CODE: Full  

 
Medications on Admission:
5% Salicylic acid  
Albuterol 90mcg 2 puffs QID  
Albuterol nebs  
Alendronate 70mg (in OMR, reports not taking)  
Amlodipine 5mg daily  
Fluocinolone 0.01% - under shower cap  
Fluticasone 50 mcg 2 sprays nostrils daily  
Fluticasone-Salmeterol 500/50 mcg BID  
lasix 40mg daily  
Glyburide 2.5mg QOD  
Hydrocortisone 2.5% BID two weeks at a time (in OMR, reports not 
taking)  
Ipratroprium-Albuterol 103-18mcg 2 puffs QID prn  
Lisinopril 40mg daily  
Metformin 1000mg BID  
Omeprazole 20mg BID  
Ranitidine 300mg qHS  
Simvastatin 5mg qHS  
Vit b-12 1000mcg/ml 1cc qMonth  
Xalatan 0.005% 1 drop each eye qHS  
ASA 325mg daily  
Calcium-Cholecalciferol 500mg-200mg daily  
Colace 100mg TID  
Fe sulfate 325mg daily  
Magnesium oxide 400mg daily  
Senna 8.6mg 2tabs qHS  

 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours).  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Glyburide 2.5 mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
5. Ipratropium Bromide 17 mcg/Actuation Aerosol Sig: Two (2) 
Puff Inhalation QID (4 times a day).  
6. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
9. Ranitidine HCl 150 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
10. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO QHS (once a day 
(at bedtime)).  
11. Cyanocobalamin 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month.  
12. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
13. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

14. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO DAILY (Daily).  
15. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
16. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID 
(3 times a day).  
17. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
18. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
19. Senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  

20. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 2 weeks.
Disp:*28 Tablet(s)* Refills:*0*
21. Fluticasone-Salmeterol 500-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
22. Fluticasone 50 mcg/Actuation Spray, Suspension Sig: Two (2) 
Spray Nasal DAILY (Daily).  
23. Bactrim DS 160-800 mg Tablet Sig: One (1) Tablet PO twice a 
day for 2 weeks.
Disp:*28 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Cellulitis

Secondary:
COPD
Diabetes
Psoriasis

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the hospital because of an infection in 
your leg.  You initially required IV antibiotics.  You improved 
and were able to be switched to oral antibiotics.  You will need 
to take both antibiotics for 2 weeks.  

New Medications:
Bactrim DS 1 tab twice a day
Ciprofloxacin 500mg 1 tab twice a day. 

Follow up with ___ on ___ at 11:40am.  
Please call ___ to confirm your appointment.  

You also have an appointment with Dr. ___ on ___ at 
4pm.

Please return to the hospital or call your doctor if you have 
temperature greater than 101, worsening pain or swelling of your 
ankle, shortness of breath, worsening difficulty with 
swallowing, chest pain, abdominal pain, diarrhea, or any other 
symptoms that you are concerned about.

 
Followup Instructions:
___